US06528525B1
Sodium 2-ethoxy-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate (exemplification No. 1-35 compound)
To a solution of ethyl 2-ethoxy-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate (135 mg), which is the product of Example 1, in methanol (2 ml) an aqueous solution of sodium hydroxide (1N, 0.55 ml) was added. The mixture was stirred at room temperature for 2 hours. At the end of this time the methanol was evaporated under reduced pressure and an aqueous solution of hydrogen chloride (1N, 0.55 ml) and ethyl acetate were added to the residue. The ethyl acetate layer was separated and dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to afford the desired compound (121 mg) as a gum.

reactant | ethyl 2-ethoxy-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate | 135 mg | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(C1=CC=C(C=C1)C1=NC=CC=C1)=O | C27H30N2O5
reactant | sodium hydroxide | 1N, 0.55 ml | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | Sodium 2-ethoxy-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate | 121 mg | C(C)OC(C(=O)[O-])CC1=CC=C(C=C1)OCCNC(C1=CC=C(C=C1)C1=NC=CC=C1)=O.[Na+] | InChI=1S/C25H26N2O5.Na/c1-2-31-23(25(29)30)17-18-6-12-21(13-7-18)32-16-15-27-24(28)20-10-8-19(9-11-20)22-5-3-4-14-26-22;/h3-14,23H,2,15-17H2,1H3,(H,27,28)(H,29,30);/q;+1/p-1
